US07691882B2
3-(3-(4-(Pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridine
To a tetrahydrofuran (3 mL) solution of 3-ethynylpyridine (50 mg, 0.485 mmol) and (4-(pyridin-2-ylmethoxy)-phenyl)-acetohydroximoyl chloride (215 mg, 0.776 mmol) described in Manufacturing Example 203-1-4 was added triethylamine (270 μL, 1.94 mmol), which was stirred for 2.5 hours at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:4 to 1:2, then 1:1) to obtain the title compound (71 mg, 43%).

reactant | 3-ethynylpyridine | 0.485 mmol, 50 mg | C(#C)C=1C=NC=CC1 | C7H5N
reactant | (4-(pyridin-2-ylmethoxy)-phenyl)-acetohydroximoyl chloride | 0.776 mmol, 215 mg | N1=C(C=CC=C1)COC1=CC=C(C=C1)CC(=NO)Cl | C14H13ClN2O2
reactant | triethylamine | 1.94 mmol, 270 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(Pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridine | 71 mg, 43% | N1=C(C=CC=C1)COC1=CC=C(CC2=NOC(=C2)C=2C=NC=CC2)C=C1 | C21H17N3O2
